US06333431B1
200 mg of 2,3,4,6-tetrafluorobenzoic acid was dissolved in 10 ml of diethyl ether and cooled to −10° C. in an argon atmosphere. Then 1.72 ml of a methyl magnesium bromide-diethyl ether solution (3 moles/liter) was added dropwise. After completion of dropwise addition, the reaction mixture was heated to room temperature and stirred at room temperature for 17 hours. The reaction mixture was added to about 50 ml of cold water and adjusted to pH 1 with concentrated hydrochloric acid. The reaction mixture was extracted with ethyl acetate and separated into liquids. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to give 181 mg of 3,4,6-trifluoro-2-methylbenzoic acid (yield: 92%).

reactant | 2,3,4,6-tetrafluorobenzoic acid | 200 mg | FC1=C(C(=O)O)C(=CC(=C1F)F)F | C7H2F4O2
reactant | methyl magnesium bromide diethyl ether | 3 moles/liter, 1.72 ml | C[Mg]Br.C(C)OCC
reactant | water | about 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3,4,6-trifluoro-2-methylbenzoic acid | 181 mg, yield: 92% | FC=1C(=C(C(=O)O)C(=CC1F)F)C | C8H5F3O2
